US04544753
b. (4-Amino-5-methylisoxazol-3-yl)-4-chlorophenylmethanone
A solution of (5-methyl-4-nitroisoxazol-3-yl)-4-chlorophenylmethanone of Example Va (5.3 g, 20 mmoles) in tetrahydrofuran (THF) (100 ml) was added to a mixture of SnCl2.2H2O (27 g, 120 mmoles) in concentrated hydrochloric acid (35 ml) and THF (11 ml) over 1 hour. After warming to room temperature, the reaction mixture was poured into cold 10% sodium hydroxide (500 ml) with stirring and extracted with ethyl acetate. The extracts were washed with dilute sodium chloride and dried (sodium sulfate). Concentration gave 3.7 g (78%) of a solid, which was flash chromatographed (20% ethyl acetate:hexane) to yield 2.9 g (62%) of a solid, melting point 84°-86° C.

reactant | (5-methyl-4-nitroisoxazol-3-yl)-4-chlorophenylmethanone | CC1=C(C(=NO1)C(=O)C1=CC=C(C=C1)Cl)[N+](=O)[O-] | C11H7ClN2O4
reactant | SnCl2.2H2O | 120 mmoles, 27 g | O.O.Cl[Sn]Cl
reactant | sodium hydroxide | 500 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | hydrochloric acid | 35 ml | Cl | ClH
solvent | THF | 11 ml | O1CCCC1 | C4H8O
product | (4-Amino-5-methylisoxazol-3-yl)-4-chlorophenylmethanone | 3.7 g, 78% | NC=1C(=NOC1C)C(=O)C1=CC=C(C=C1)Cl | C11H9ClN2O2
